US08349824B2
To an argon purged solution of 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine (60 mg, 268 μmol) in dioxane (5 ml) is added trimethylaluminum (2M solution in toluene, 401 μl, 803 μmol). The resulting mixture is stirred for 1 hour at 25° C., then ethyl 4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxylate (63.5 mg, 268 μmol) is added, the mixture is heated to 100° C. and stirred for 72 hours. The crude material is loaded on silica and purified by flash chromatography on a 20 g silica column using heptane/ethyl acetate 50-100% as eluent affording 4-(azetidine-1-carbonyl)-1-methyl-N-(8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide (77 mg, 69.3%) as a white solid. mp.: 243-5° C. MS: m/z=416.2 (M+H+).

reactant | 8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-amine | 268 μmol, 60 mg | CC=1C=2N(C=CC1N)N=C(N2)C2=CC=CC=C2 | C13H12N4
reactant | trimethylaluminum | 803 μmol, 2M, 401 μl | C[Al](C)C
reactant | ethyl 4-(azetidine-1-carbonyl)-1-methyl-1H-pyrazole-5-carboxylate | 268 μmol, 63.5 mg | N1(CCC1)C(=O)C=1C=NN(C1C(=O)OCC)C | C11H15N3O3
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 4-(azetidine-1-carbonyl)-1-methyl-N-(8-methyl-2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-1H-pyrazole-5-carboxamide | 77 mg, 69.3% | N1(CCC1)C(=O)C=1C=NN(C1C(=O)NC1=C(C=2N(C=C1)N=C(N2)C2=CC=CC=C2)C)C | C22H21N7O2
